US08859571B2
To a solution of 4-fluoro-N-methyl-3-nitrobenzenesulfonamide (2.00 g, 8.54 mmol) and morpholine (0.744 g, 8.54 mmol) in THF (100 mL), was added N,N-diisopropylethylamine (2.21 g, 17.08 mmol). The resulting solution was stirred at 50° C. overnight. In the morning, the reaction mixture was cooled to room temperature and concentrated to dryness in vacuo. The residue was dissolved in ethyl acetate and washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo to obtain N-methyl-4-(4-morpholinyl)-3-nitrobenzenesulfonamide (2.5 g, 97%) as a red oil. MS (m/z) 302.0 (M+H+)

reactant | 4-fluoro-N-methyl-3-nitrobenzenesulfonamide | 8.54 mmol, 2.00 g | FC1=C(C=C(C=C1)S(=O)(=O)NC)[N+](=O)[O-] | C7H7FN2O4S
reactant | morpholine | 8.54 mmol, 0.744 g | N1CCOCC1 | C4H9NO
reactant | N,N-diisopropylethylamine | 17.08 mmol, 2.21 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-methyl-4-(4-morpholinyl)-3-nitrobenzenesulfonamide | 2.5 g, 97% | CNS(=O)(=O)C1=CC(=C(C=C1)N1CCOCC1)[N+](=O)[O-] | C11H15N3O5S
